US08471005B2
Analogous to Example 1562a, 2-Tributylstannanyl-pyrazine (0.650 mL, 2.06 mmol) and 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.224 g, 0.916 mmol) were reacted to afford 2-Methylsulfanyl-7-pyrazin-2-yl-pyrrolo[2,1-f][1,2,4]triazine (0.100 g, 44%). 1H-NMR (DMSO-d6): 9.87 (s, 1H), 9.50 (s, 2H), 9.15 (s, 1H), 8.80 (m, 6H), 8.62 (s, 1H), 7.64 (d, 1H, J=4.96 Hz), 7.17 (d, 1H, J=4.96 Hz), 2.66 (s, 4H).

reactant | 2-Tributylstannanyl-pyrazine | 2.06 mmol, 0.650 mL | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
reactant | 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.916 mmol, 0.224 g | BrC1=CC=C2C=NC(=NN21)SC | C7H6BrN3S
product | 2-Methylsulfanyl-7-pyrazin-2-yl-pyrrolo[2,1-f][1,2,4]triazine | 0.100 g, 44% | CSC1=NN2C(C=N1)=CC=C2C2=NC=CN=C2 | C11H9N5S
